US06828460B2
(±)-3-(2,4-Dihydroxyphenyl)cyclohexanecarboxamide
(±)-3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexanecarboxamide (22 mg), methanol (2 ml) and acidic ion exchange resin (300 mg) were heated to reflux for 5 hr. The reaction mixture was filtered and the resin was washed with methanol. The combined filtrate and washings were evaporated in vacuo and the crude residue was purified by preparative HPLC to give the title compound as a white solid (5 mg, 31%). δH(CD3OD) 1.45-1.82 (6H, m), 2.07-2.19 (2H, m), 2.62-2.69 (1H, m), 3.00-3.09 (1H, m), 6.20-6.28 (2H, m), 6.89 (1H, d); m/z (ES+) 236 (M+H)+.

reactant | (±)-3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexanecarboxamide | 22 mg | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)C(=O)N | C17H25NO5
solvent | methanol | 2 ml | CO | CH4O
product | (±)-3-(2,4-Dihydroxyphenyl)cyclohexanecarboxamide | 5 mg, 31% | OC1=C(C=CC(=C1)O)C1CC(CCC1)C(=O)N | C13H17NO3
